US05414004
EXAMPLE 54 2,3-Dihydro-2-oxo-1-phenyl-3-(2-pyrazinylmethyl)-1H-indole-3-pentanenitrile.
By substituting 2,3-dihydro-2-oxo-1-phenyl-3-(2-pyrazinylmethyl)1H-indole and 5-bromovaleronitrile in Example 1, the desired product was obtained in 76% yield as an oil.

reactant | 2,3-dihydro-2-oxo-1-phenyl-3-(2-pyrazinylmethyl)1H-indole | O=C1N(C2=CC=CC=C2C1CC1=NC=CN=C1)C1=CC=CC=C1 | C19H15N3O
reactant | 5-bromovaleronitrile | BrCCCCC#N | C5H8BrN
product | 2,3-Dihydro-2-oxo-1-phenyl-3-(2-pyrazinylmethyl)-1H-indole-3-pentanenitrile | 76% yield | O=C1N(C2=CC=CC=C2C1(CCCCC#N)CC1=NC=CN=C1)C1=CC=CC=C1 | C24H22N4O
